US04590201
A mixture of 4-(4-chlorobenzoyl)toluene (5.48 g, 23.8 mmol), dibenzoylperoxide (100 mg, 0.413 mmol), and N-bromosuccinimide (4.56 g, 25.6 mmol) in carbon tetrachloride (70 ml) was refluxed for 2 hours, cooled, filtered, and evaporated under vacuum. The residue was chromatographed on silica gel (1 kg) eluted with 97:3 (v/v) hexane-ethyl acetate using a preparative high-performance liquid chromatograph. Appropriate fractions were pooled and evaporated under vacuum to provide 4.61 g (63%) of 4-(4-chlorobenzoyl)benzyl bromide, m.p. 103°-104° C.

reactant | 4-(4-chlorobenzoyl)toluene | 23.8 mmol, 5.48 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C14H11ClO
reactant | N-bromosuccinimide | 25.6 mmol, 4.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoylperoxide | 0.413 mmol, 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-(4-chlorobenzoyl)benzyl bromide | 4.61 g, 63% | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
